US06054466
Step C: 4-phenyl-4,5,6,7-tetrahydro-1H-imidazo[4,5]pyridine-6(S)-carboxylic acid {2-[3-(4-cyano-benzyl)-3H-imidazol-4-yl]-ethyl}-amide
To a solution of 6(S)-{2-[3-(4-cyano-benzyl)-3H-imidazol-4yl]ethylcarbamoyl}-4-phenyl-6,7-dihydro-4H-imidazo [4,5-]pyridine-1,5-dicarboxylic acid di-tert-butyl ester (0.58 g) in CH2Cl2 (10 ml) was added TFA (5 ml) and the solution was stirred 45 min. The solvents were removed in vacuo and the crude product was purified by preparative HPLC to obtain diastereomer A and diastereomer B as the title compounds.

reactant | 6(S)-{2-[3-(4-cyano-benzyl)-3H-imidazol-4yl]ethylcarbamoyl}-4-phenyl-6,7-dihydro-4H-imidazo [4,5-]pyridine-1,5-dicarboxylic acid di-tert-butyl ester | 0.58 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C[C@@H](C(N2C2=CC=CC=C2)C(=O)OC(C)(C)C)C(NCCC=2N(C=NC2)CC2=CC=C(C=C2)C#N)=O | C36H41N7O5
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-phenyl-4,5,6,7-tetrahydro-1H-imidazo[4,5]pyridine-6(S)-carboxylic acid {2-[3-(4-cyano-benzyl)-3H-imidazol-4-yl]-ethyl}-amide | C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@@H]2CN(C3=C(C2)NC=N3)C3=CC=CC=C3)C=C1 | C26H25N7O
